* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  9 17:51:08 2023
* Design path:          /home/vlsi/Desktop/Karim_Project_Nand22/lib.defs
* Library:              Karim_Project
* Cell:                 RAN
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt Nand_gate_2_inputs A B Z Gnd Vdd 
* Library name: Karim_Project
* Cell name: Nand_gate_2_inputs
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In
* PORT=Z TYPE=Out
* PORT=A TYPE=In

MM1n N1 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=2600 $w=400 $h=600
MM2n Z A N1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=3400 $w=400 $h=600
MM3p Z A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=4200 $w=400 $h=600
MM4p Z B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=3800 $y=4200 $w=400 $h=600
.ends

.subckt test_full_adder_nand A B CIn Cout Sum Gnd Vdd 
* Library name: Karim_Project
* Cell name: test_full_adder_nand
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Cout TYPE=Out
* PORT=CIn TYPE=In
* PORT=Sum TYPE=Out
* PORT=A TYPE=In
* PORT=B TYPE=In

XNand_gate_2_inputs_1 A B N_1 Gnd Vdd Nand_gate_2_inputs $ $x=1700 $y=5300 $w=1800 $h=1000
XNand_gate_2_inputs_2 A N_1 N_2 Gnd Vdd Nand_gate_2_inputs $ $x=3600 $y=5700 $w=1800 $h=1000
XNand_gate_2_inputs_3 N_1 B N_3 Gnd Vdd Nand_gate_2_inputs $ $x=2900 $y=4400 $w=1800 $h=1000
XNand_gate_2_inputs_4 N_2 N_3 N_4 Gnd Vdd Nand_gate_2_inputs $ $x=5300 $y=5200 $w=1800 $h=1000
XNand_gate_2_inputs_5 N_4 CIn N_5 Gnd Vdd Nand_gate_2_inputs $ $x=8200 $y=5300 $w=1800 $h=1000
XNand_gate_2_inputs_6 N_4 N_5 N_6 Gnd Vdd Nand_gate_2_inputs $ $x=10500 $y=6300 $w=1800 $h=1000
XNand_gate_2_inputs_7 N_5 CIn N_7 Gnd Vdd Nand_gate_2_inputs $ $x=10500 $y=4600 $w=1800 $h=1000
XNand_gate_2_inputs_8 N_6 N_7 Sum Gnd Vdd Nand_gate_2_inputs $ $x=12800 $y=5400 $w=1800 $h=1000
XNand_gate_2_inputs_9 N_4 CIn N_8 Gnd Vdd Nand_gate_2_inputs $ $x=7800 $y=2700 $w=1800 $h=1000
XNand_gate_2_inputs_10 A B N_9 Gnd Vdd Nand_gate_2_inputs $ $x=5200 $y=1700 $w=1800 $h=1000
XNand_gate_2_inputs_11 N_8 N_9 Cout Gnd Vdd Nand_gate_2_inputs $ $x=10400 $y=2900 $w=1800 $h=1000
.ends

.subckt RAN A0 A1 A2 A3 B0 B1 B2 B3 CIn Cout Sum0 Sum1 Sum2 Sum3 Gnd Vdd 
* Library name: Karim_Project
* Cell name: RAN
* View name: schematic
* PORT=Sum1 TYPE=Out
* PORT=Sum0 TYPE=Out
* PORT=B2 TYPE=In
* PORT=A2 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A3 TYPE=In
* PORT=B0 TYPE=In
* PORT=A0 TYPE=In
* PORT=Sum3 TYPE=Out
* PORT=CIn TYPE=In
* PORT=Sum2 TYPE=Out
* PORT=A1 TYPE=In
* PORT=B3 TYPE=In
* PORT=B1 TYPE=In
* PORT=Cout TYPE=Out

Xtest_full_adder_nand_1 B0 A0 CIn N_1 Sum0 Gnd Vdd test_full_adder_nand $ $x=7700 $y=5000 $w=1800 $h=1800
Xtest_full_adder_nand_2 B1 A1 N_1 N_2 Sum1 Gnd Vdd test_full_adder_nand $ $x=5400 $y=5000 $w=1800 $h=1800
Xtest_full_adder_nand_3 B2 A2 N_2 N_3 Sum2 Gnd Vdd test_full_adder_nand $ $x=3400 $y=5000 $w=1800 $h=1800
Xtest_full_adder_nand_4 B3 A3 N_3 Cout Sum3 Gnd Vdd test_full_adder_nand $ $x=1400 $y=5000 $w=1800 $h=1800
.ends



